US04186135
32.2 g of 7-chloro-1,4-benzodioxane-5-carboxylic acid and 64 ml of thionyl chloride were introduced into a balloon flask provided with an agitator, a thermometer and a condenser. The mixture was heated under reflux and then the thionyl chloride in excess was distilled off under vacuum. 35 g of 7-chloro-1,4-benzodioxane-5-carbonyl chloride were obtained (M.P.: 140° C.; yield: 100%).

reactant | 7-chloro-1,4-benzodioxane-5-carboxylic acid | 32.2 g | ClC=1C=C(C2=C(OCCO2)C1)C(=O)O | C9H7ClO4
reactant | thionyl chloride | 64 ml | S(=O)(Cl)Cl | Cl2OS
product | 7-chloro-1,4-benzodioxane-5-carbonyl chloride | 35 g, yield: 100% | ClC=1C=C(C2=C(OCCO2)C1)C(=O)Cl | C9H6Cl2O3
